### PR TITLE
[Merged by Bors] - feat: add lintegral theorems for Kernel.traj

### PR DESCRIPTION
**Pull request by gaetanserre**
Add the theorems `Kernel.lintegral_traj` and `Kernel.lintegral_traj₀`, two adapted versions for lower Lesbegue integral of `Kernel.integral_traj`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 1]
```diff
@@ -592,6 +592,11 @@ section integral
 
 /-! ### Integrals and `traj` -/
 
+theorem lintegral_traj {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → ℝ≥0∞}
+    (mf : Measurable f) :
+    ∫⁻ x, f x ∂traj κ a x₀ = ∫⁻ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀:= by
+  nth_rw 1 [← traj_map_updateFinset, MeasureTheory.lintegral_map mf (by fun_prop)]
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]: You should put a version which only assumes almost-everywhere measurability (copied from `integral_traj`):
```suggestion
theorem lintegral_traj {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → ℝ≥0∞}
    (mf : AEMeasurable f (traj κ a x₀)) :
    ∫⁻ x, f x ∂traj κ a x₀ = ∫⁻ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀:= by
  nth_rw 1 [← traj_map_updateFinset, lintegral_map']
  · convert mf
    rw [traj_map_updateFinset]
  · exact measurable_updateFinset_left.aemeasurable
```
If you want you can also keep your version assuming measurability. In that case, I suggest you rename the aemeasurable version to `lintegral_traj₀`.

Comment (gaetanserre) [reply Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]: Sure, thanks for the suggestions! See [#718d5e3](https://github.com/leanprover-community/mathlib4/pull/28731/commits/718d5e3fa40a84c0f7082ad6d8e56fb2f017565f).

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 2]
```diff
@@ -592,6 +592,19 @@ section integral
 
 /-! ### Integrals and `traj` -/
 
+theorem lintegral_traj {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → ℝ≥0∞}
+    (mf : AEMeasurable f (traj κ a x₀)) :
+    ∫⁻ x, f x ∂traj κ a x₀ = ∫⁻ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀:= by
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]:
```suggestion
    ∫⁻ x, f x ∂traj κ a x₀ = ∫⁻ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀ := by
```

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 3]
```diff
@@ -592,6 +592,19 @@ section integral
...
+  nth_rw 1 [← traj_map_updateFinset, MeasureTheory.lintegral_map']
+  · convert mf
+    exact traj_map_updateFinset x₀
+  · exact measurable_updateFinset_left.aemeasurable
+
+theorem lintegral_traj₀ {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → ℝ≥0∞}
+    (mf : Measurable f) :
+    ∫⁻ x, f x ∂traj κ a x₀ = ∫⁻ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀:=
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]:
```suggestion
    ∫⁻ x, f x ∂traj κ a x₀ = ∫⁻ x, f (updateFinset x (Iic a) x₀) ∂traj κ a x₀ :=
```

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 4]
```diff
@@ -592,6 +592,19 @@ section integral
 
 /-! ### Integrals and `traj` -/
 
+theorem lintegral_traj {a : ℕ} (x₀ : Π i : Iic a, X i) {f : (Π n, X n) → ℝ≥0∞}
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]: I meant that this one should be called `lintegral_traj₀`. In general, when a statement `foo` assumes `Measurable`, `foo₀` assumes `AEMeasurable`. The reasoning is that `₀` refers to the zero-measure set.

Comment (gaetanserre) [reply Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]: Of course, sorry for that. I fixed the names in [#9ec49eb](https://github.com/leanprover-community/mathlib4/pull/28731/commits/9ec49eb34e1eea870668046639fe6d5d4cbdd3fd).

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge
